US04992433
A mixture of 10.7 parts of methyl 4-[[4-hydroxy-1-(phenylmethyl)-4-piperidinyl]-methoxy]benzoate and 8 parts of 2-aminoethanol was stirred for 4 hours in an oil bath at 145° C. After cooling, the reaction mixture was poured into water. The oil was decanted, washed twice with water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from a mixture of 2,2'-oxybispropane and 2-propanol. The product was filtered off and dried, yielding 8 parts (69.3%) of N-(2-hydroxyethyl)-4-[[4-hydroxy-1-(phenylmethyl)-4-piperidinyl]-methoxy]benzamide; mp. 161.1° C. (int. 80).

reactant | methyl 4-[[4-hydroxy-1-(phenylmethyl)-4-piperidinyl]-methoxy]benzoate | OC1(CCN(CC1)CC1=CC=CC=C1)COC1=CC=C(C(=O)OC)C=C1 | C21H25NO4
reactant | 2-aminoethanol | NCCO | C2H7NO
solvent | water | O | H2O
product | N-(2-hydroxyethyl)-4-[[4-hydroxy-1-(phenylmethyl)-4-piperidinyl]-methoxy]benzamide | 69.3% | OCCNC(C1=CC=C(C=C1)OCC1(CCN(CC1)CC1=CC=CC=C1)O)=O | C22H28N2O4
